US07148234B2
STEP 1. 2-{4-[(5,6-Dichloro-3-nitro-2-pyridinyl)amino]phenyl}ethanol
The title compound was prepared according to the procedure described in step 1 of Example 34 from 3-nitro-2,5,6-trichloropyridine (Horn, U.; Mutterer, F.; Weis, C. D. Helv. Chim. Acta., 1976, 59,190.) and 4-aminophenylethyl alcohol.

reactant | 3-nitro-2,5,6-trichloropyridine | [N+](=O)([O-])C=1C(=NC(=C(C1)Cl)Cl)Cl | C5HCl3N2O2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-{4-[(5,6-Dichloro-3-nitro-2-pyridinyl)amino]phenyl}ethanol | ClC=1C=C(C(=NC1Cl)NC1=CC=C(C=C1)CCO)[N+](=O)[O-] | C13H11Cl2N3O3
